US04062966
A solution of 1-(2,4-dichloro-phenyl)-2-(1-imidazolyl) ethanol (2.4 g, 9.4 mmole) in dry tetrahydrofuran (20 ml) was added to sodium hydride (0.62 g, as an 80% dispersion in oil, 0.02 mole) and warmed at 70° C for 90 minutes. The solution was cooled to 0° C and 4-chloromethylthiazole (1.5 g, 11.2 mmole), dissolved in a little dry tetrahydrofuran, was added. The mixture was stirred at 0° C for 1 hour and at room temperature for 6 hours. Further 4-chloromethylthiazole (0.25 g) was added and the stirring continued for 36 hours. The reaction mixture was then diluted with water (70 ml) and extracted several times with ether. The ether extracts were combined, dried over MgSO4 and evaporated. The oily residue was taken up in dry ether (50 ml) and treated with a solution of HCl in ether. The solid precipitate was collected and recrystallized from a mixture of methanol and di-isopropyl ether to give 1-[2,4-dichloro-β-(4-thiazolylmethoxy) phenethyl]imidazole hydrochloride (1.7 g, 46%) m.p. 183°-184°. (Found: C, 46.3; H, 3.7; N, 10.7. C15H13N3Cl2OS.HCl requires C, 46.1; H, 3.6; N, 10.7%).

reactant | 1-(2,4-dichloro-phenyl)-2-(1-imidazolyl) ethanol | 9.4 mmole, 2.4 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethylthiazole | 11.2 mmole, 1.5 g | ClCC=1N=CSC1 | C4H4ClNS
reactant | 4-chloromethylthiazole | 0.25 g | ClCC=1N=CSC1 | C4H4ClNS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 70 ml | O | H2O
product | 1-[2,4-dichloro-β-(4-thiazolylmethoxy) phenethyl]imidazole hydrochloride | 1.7 g, 46% | Cl.ClC1=C(C(CN2C=NC=C2)OCC=2N=CSC2)C=CC(=C1)Cl | InChI=1S/C15H13Cl2N3OS.ClH/c16-11-1-2-13(14(17)5-11)15(6-20-4-3-18-9-20)21-7-12-8-22-10-19-12;/h1-5,8-10,15H,6-7H2;1H
